US04879389
CataIytic asymmetric reduction of N,N-diethylphenacylamine
To 1.59 g (7 m-mol) of N,N-diethylphenacylamine hydrochloride were added 10 ml of methanol, 1.7 mg (0.0035 m-mol) of rhodium 1,5-cyclooctadiene chloride complex and 5.3 mg (0.0091 m-mol) of (2S,4S)-N-phenoxycarbonyl-4-dicyclohexylphosphino-2-iphenylphosphinomethylpyrrolidine (PCPM). The mixture was charged into an autoclave and stirred for 20 hours at 50° C. in hydrogen atmosphere at a pressure of 5 atm. It was confirmed by TLC that 100% of the starting material had been converted. An after-treatment was carried out in the same manner as in Example 30 whereby 1.50 g of N,N-diethyl-2-amino-1-phenylethanol hydrochloride was obtained. [α]D23 =+61.1° (c=5, water) (optical yield: 95% ee).

reactant | N,N-diethylphenacylamine hydrochloride | 1.59 g | Cl.C(C)N(CC)CC(=O)C1=CC=CC=C1
reactant | methanol | 10 ml | CO | CH4O
reactant | N,N-diethyl-2-amino-1-phenylethanol hydrochloride | 1.50 g | Cl.C(C)N(CC(O)C1=CC=CC=C1)CC
reactant | water | O | H2O
solvent | hydrogen | [H][H] | H2
product | N,N-diethylphenacylamine | yield: 95% ee | C(C)N(CC)CC(=O)C1=CC=CC=C1 | C12H17NO
